US04619782
Phosphorus and Bromine is added into dry 2-methylmalonic acid according to the procedure of Braun, in Berichte 42, p. 839 (1909) to form 2-Bromo-2-methyl malonic acid.

reactant | Phosphorus | [P] | P
reactant | Bromine | BrBr | Br2
reactant | 2-methylmalonic acid | CC(C(=O)O)C(=O)O | C4H6O4
product | 2-Bromo-2-methyl malonic acid | BrC(C(=O)O)(C(=O)O)C | C4H5BrO4
